US06930120B2
3-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(3,4-difluoro-phenoxy)-2-methyl-propionic acid
The title compound was prepared from 2-(3,4-difluoro-phenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(2-cyclohexyl-5-methyloxazol-4-yl)-ethyl ester using the method of Example 56. 1H NMR (400 MHz, CDCl3) δ 9.37 (bs, 1H), 7.16 (d, 2H, J=8.4 Hz), 6.99 (dd, 1H, J=9.5 Hz), 6.78 (d, 2H, J=8.4 Hz), 6.77-6.72 (m, 1H), 6.63-6.58 (m, 1H), 4.12 (t, 2H, J=6.4 Hz), 3.21 and 3.08 (d of ABq, 2H, J=14.0 Hz), 2.97 (t, 2H, J=6.4 Hz), 2.91 (tt, 1H, J=12.0, 3.6 Hz), 2.32 (s, 3H), 2.04-1.98 (m, 2H), 1.85-1.78 (m, 2H), 1.76-1.68 (m, 1H), 1.62-1.49 (m, 2H), 1.41-1.19 (m, 3H), 1.37 (s, 3H).

reactant | 2-(3,4-difluoro-phenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC(=C(C=C1)F)F)=O | C18H18F2O4
reactant | toluene-4-sulfonic acid 2-(2-cyclohexyl-5-methyloxazol-4-yl)-ethyl ester | C1(CCCCC1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C19H25NO4S
product | 3-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(3,4-difluoro-phenoxy)-2-methyl-propionic acid | C1(CCCCC1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)CC(C(=O)O)(C)OC1=CC(=C(C=C1)F)F)C | C28H31F2NO5
